US06340691B1
2-{[4-(2-butynyloxy) phenyl]sulfonyl}-N-hydroxy-2-(4-piperidinyl)acetamide Tert-butyl-4-[1-{[4-(2-butynyloxy)phenyl]sulfonyl}-2-(hydroxy amino)-2-oxoethyl]-1-piperidine carboxylate (160 mg, 0.34 mmol) was dissolved in methanolic HCl (50 ml) and allowed to stir at room temperature for 1 hour. The mixture was concentrated. After overnight drying, 80 mg of 2-{[4-(2-butynyloxy) phenyl]sulfonyl}-N-hydroxy-2-(4-piperidinyl) acetamide was isolated as a pink powder. mp: 140° C.; Yield: 59%; MS: 367.2 (M+H)+; 1H NMR (300 MHz, DMSO-d6): δ1.46-1.70 (band, 3H), 1.85 (t, 3H), 2.16-2.30 (band, 2H), 2.87 (m, 2H), 3.21 (m, 2H), 3.79 (d, J=8.79 Hz, 1H), 4.88 (d, J=2.28 Hz, 2H), 7.17 (d, J=9 Hz, 2H), 7.77 (d, J=9 Hz, 2H), 8.52 (m, 1H), 8.73 (m, 1H), 9.18 (s, 1H), 10.9 (s, 1H).

reactant | 2-{[4-(2-butynyloxy) phenyl]sulfonyl}-N-hydroxy-2-(4-piperidinyl)acetamide Tert-butyl-4-[1-{[4-(2-butynyloxy)phenyl]sulfonyl}-2-(hydroxy amino)-2-oxoethyl]-1-piperidine carboxylate | 0.34 mmol, 160 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C(=O)NO)S(=O)(=O)C1=CC=C(C=C1)OCC#CC.C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C(C(=O)NO)C1CCNCC1
solvent | HCl | 50 ml | Cl | ClH
product | 2-{[4-(2-butynyloxy) phenyl]sulfonyl}-N-hydroxy-2-(4-piperidinyl) acetamide | 80 mg, Yield: 59% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C(C(=O)NO)C1CCNCC1 | C17H22N2O5S
